US07897597B2
Propargyl bromide (1.30 g, 9.19 mmol) was added to a mixture of N-[2-(4-amino-2-ethoxymethyl-7-hydroxy-1H-imidazo[4,5-c]quinolin-1-yl)-1,1-dimethylethyl]methanesulfonamide (2.5 g, 6.13 mmol) and cesium carbonate (5.00 g, 12.3 mmol) in DMF. The mixture was stirred overnight and then was poured into water (600 mL). The mixture was stirred overnight and a gummy solid was isolated by filtration. The solid was dissolved in dichloromethane and the resulting solution was dried over magnesium sulfate, filtered, and concentrated under reduced pressure. The crude product was purified by flash chromatography (silica gel, gradient elution with 0-30% of a 1:5-methanol/dichloromethane solution in dichloromethane) to provide 675 mg of N-{2-[4-amino-2-(ethoxymethyl)-7-(prop-2-ynyloxy)-1H-imidazo[4,5-c]quinolin-1-yl]-1,1-dimethylethyl}methanesulfonamide as an off-white solid. A small portion was recrystallized from methanol to yield an off-white solid, mp 175.0-176.0° C.

reactant | Propargyl bromide | 9.19 mmol, 1.30 g | C(C#C)Br | C3H3Br
reactant | N-[2-(4-amino-2-ethoxymethyl-7-hydroxy-1H-imidazo[4,5-c]quinolin-1-yl)-1,1-dimethylethyl]methanesulfonamide | 6.13 mmol, 2.5 g | NC1=NC=2C=C(C=CC2C2=C1N=C(N2CC(C)(C)NS(=O)(=O)C)COCC)O | C18H25N5O4S
reactant | cesium carbonate | 12.3 mmol, 5.00 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | water | 600 mL | O | H2O
solvent | DMF | CN(C)C=O | C3H7NO
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-{2-[4-amino-2-(ethoxymethyl)-7-(prop-2-ynyloxy)-1H-imidazo[4,5-c]quinolin-1-yl]-1,1-dimethylethyl}methanesulfonamide | 675 mg | NC1=NC=2C=C(C=CC2C2=C1N=C(N2CC(C)(C)NS(=O)(=O)C)COCC)OCC#C | C21H27N5O4S
